US07745646B2
4-Methylbenzene-1-sulfonyl chloride (135 mg, 0.71 mmol) was added to a solution of 8-(cyclopentyloxy)-4-hydroxy-7-methoxy-2H-chromen-2-one (175 mg, 0.63 mmol), pyridine (0.15 mL, 1.85 mmol), and anhydrous dichloromethane (4 mL) at rt under N2. After 20 h, the reaction was concentrated and purified by silica gel chromatography (1:0→7:3; hexanes:ethyl acetate) to give 8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-yl 4-methylbenzenesulfonate: MS (ESI): 431.3.

reactant | 4-Methylbenzene-1-sulfonyl chloride | 0.71 mmol, 135 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 8-(cyclopentyloxy)-4-hydroxy-7-methoxy-2H-chromen-2-one | 0.63 mmol, 175 mg | C1(CCCC1)OC=1C(=CC=C2C(=CC(OC12)=O)O)OC | C15H16O5
reactant | pyridine | 1.85 mmol, 0.15 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 8-(cyclopentyloxy)-7-methoxy-2-oxo-2H-chromen-4-yl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O | C22H22O7S
